Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-6.14164241946
[H:1][C:2]=[C:3]([H:4])/[C:5]([O:6][H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:5](\[O:6][H:7])=[C:8](\[H:9])[O:10][H:11].[H:1][C:2]#[C:3][H:4],2.20379957529
[H:1][C:2]([C:3][O:4][C:5]([H:6])=[C:7][H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]1=[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[C:9]1([H:10])[H:11],-2.9756163403
[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:12][H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.69185355877
[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14],4.74039912227
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([H:8])[C@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[H:5],3.83549082602
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:11]([H:12])([H:13])[H:14],8.41609338728
[C:1](=[C:2]([H:3])[C:5]#[C:8][C:9])([H:4])[H:6].[C:7]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7][C:8]#[C:9],-2.9202753841900004
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7][O:8][H:9])[O:10][H:11]>>[C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7][O:8][H:9])[O:10][H:11].[H:1],3.91380012381
[H:1][O:2][C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3][O:4][C:5]#[C:6][C:8]([H:9])([H:10])[H:11].[H:7],2.20029110762
[C:5](#[C:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5](=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.48701736676
[H:1][C:2]#[C:3][O:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][O:4].[O:5]=[C:6]([H:7])[C:8]([H:9])[H:10],-1.08713769899
[C:7]([H:8])[H:9].[H:1][C:2]([H:3])([C:4]#[C:5][C:6][C:10]([H:11])[H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.847671019680001
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[O:11][H:12]>>[C:10][O:11][H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][H:9],5.3947422151
[H:10].[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]=[C:7]([H:8])[H:9])[O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]/[C:7]([H:8])([H:9])[H:10])[O:11][H:12],-2.03270374441
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-2.9426446101
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])=[C:9]([H:10])[H:11].[H:8],1.68045979752
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:4],3.96576885938
[C:1]=[C:2]([O:3][H:4])[C:5](=[O:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][H:4].[C:5](=[O:6])[C:7]([H:8])([H:9])[H:10],2.49318691287
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:13].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[O:14][H:15],4.22411008717
[C:3]=[O:7].[O:1]([C:2][C:4]#[C:5][H:6])[H:8]>>[O:1]=[C:2]=[C:3]([C:4]#[C:5][H:6])[O:7][H:8],-1.7943146436400002
[C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:1]>>[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10],-3.5590068008800007
[C:1][O:2][C:3]#[C:4][H:5].[C:6]([H:7])[O:8][H:9]>>[C:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-3.66277040481
[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-0.67134671337
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-0.21656659206
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.7404369159900002
[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[C:5]([O:6][H:7])([O:8][H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][H:4],-1.30050048107
[H:9].[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.08775126348
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])([H:6])[H:7].[H:1][C:2](=[O:3])[O:8][C:9]([H:10])([H:11])[H:12],-0.2430511885289999
